US07795262B2
Step 1. Preparation of 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine
To POCl3 (20 mL) is added 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one (1.21 g, 5.04 mmol) and the mixture is heated at 100° C. for 6 hr. Solvent is removed and the thick oil is poured onto crashed ice (60 g). Upon stirring, solid Na2CO3 is added to the suspension until pH>7. EtOAc (60 ml) is added and the layers are separated. The aqueous layer is extracted with EtOAc (30 ml) and the combined extracts are dried and evaporated. The residue is purified by flash silica gel column eluting with hexane/EtOAc (4:1) to give the title compound as a light yellow solid. MS (M+1): 259.1.

reactant | 6-benzyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2(1H)-one | 5.04 mmol, 1.21 g | C(C1=CC=CC=C1)N1CC=2C=CC(NC2CC1)=O | C15H16N2O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine | C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)Cl | C15H15ClN2
